US07465795B2
4-amino-8-(4-methoxy-3-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (125 mg, 0.40 mmol) and (4-methoxy-3-methylphenyl)boronic acid (133 mg, 0.80 mmol) were reacted to afford the title compound (105 mg, 75% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ8.59 (bs, 1H), 7.76-7.82 (m, 2H), 7.67-7.72 (m, 1H), 7.53 (dd, J=8.2, 2.2 Hz, 1H), 7.46 (m, 1H), 6.96 (d, J=8.2, 1H), 3.89 (s, 3H), 3.46 (apparent q, J=6.7 Hz, 2H), 2.30 (s, 3H), 1.67(apparent sextet, J=7.2 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H). MS APCI, m/z=351 (M+H) HPLC 1.88 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.40 mmol, 125 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | (4-methoxy-3-methylphenyl)boronic acid | 0.80 mmol, 133 mg | COC1=C(C=C(C=C1)B(O)O)C | C8H11BO3
product | 4-amino-8-(4-methoxy-3-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide | 105 mg, 75% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=C(C=C1)OC)C)C(=O)NCCC | C20H22N4O2
